US07282588B2
5-bromo-2-methyl-4-(4-nitrophenyl)-1,3-thiazole
Bromine (6 mmol) was added dropwise to a solution of 2-methyl-4-(4-nitrophenyl)-1,3-thiazole (5 mmol) in chloroform (20 mL) and the solution refluxed for 4 h. The solvent was evaporated and the product purified by crystallization from ether to afford the title compound (60%). ESMS [M+H]+: 300.2

reactant | Bromine | 6 mmol | BrBr | Br2
reactant | 2-methyl-4-(4-nitrophenyl)-1,3-thiazole | 5 mmol | CC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H8N2O2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-methyl-4-(4-nitrophenyl)-1,3-thiazole | 60% | BrC1=C(N=C(S1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H7BrN2O2S
